US04340728
A solution of 6.0 g (50 m-mol) of pentanoyl chloride in ethyl ether (50 ml) and an aqueous solution (26 ml) of 2N-sodium hydroxide were added dropwise at the same time over the period of 30 minutes to an aqueous 2N-sodium hydroxide solution (38.5 ml) of 7.00 g (38.6 m-mol) of tyrosine under agitation at 5° C., while maintaining the pH value between 9 and 11. The mixture was stirred for an additional 2 hours at room temperature and, after addition of 2N-sodium hydroxide (5 ml) thereto, was warmed at 70° C. for 10 minutes. After cooling the reaction liquid at -10° C., 9.87 g (58m-mol) of benzyloxycarbonyl chloride and an aqueous 2N-sodium hydroxide solution (20.5 ml) were added dropwise at the same time to the reaction liquid under vigorous agitation. After completion of the reaction, 3N-hydrochloric acid was added to the reaction mixture to adjust the pH value to 3. A white precipitate formed was collected by filtration and recrystallized from chloroform whereby 12.80 g (yield: 82.9%) of N-pentanoyl-O-benzyloxycarbonyltyrosin was obtained.

reactant | pentanoyl chloride | 6.0 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 38.5 ml | [OH-].[Na+]
reactant | tyrosine | 7.00 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | benzyloxycarbonyl chloride | 9.87 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 20.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-pentanoyl-O-benzyloxycarbonyltyrosin | 12.80 g, yield: 82.9% | C(CCCC)(=O)N[C@@H](CC1=CC=C(C=C1)OC(=O)OCC1=CC=CC=C1)C(=O)O | C22H25NO6
